US06743793B2
2-Methylindole-4-acetic Acid Allyl Ester
To a solution of 2-methylindole-4-acetic acid (53 g) in N,N-dimethylformamide (500 ml) was added dropwise allyl bromide (31 ml), and added anhydrous potassium carbonate (59 g). The mixture was stirred at 50° C. for 1 hour. After cooling to room temperature, the reaction mixture was poured into a mixture of 2N hydrochloric acid—ethyl acetate and then extracted with ethyl acetate. The extraction was washed with water and a saturated aqueous solution of sodium chloride, successively, dried and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane—ethyl acetate) to give the title compound (43.5 g) having the following physical data.

reactant | 2-methylindole-4-acetic acid | 53 g | CC=1NC=2C=CC=C(C2C1)CC(=O)O | C11H11NO2
reactant | allyl bromide | 31 ml | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 59 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid ethyl acetate | 2N | Cl.C(C)(=O)OCC
solvent | N,N-dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | 2-Methylindole-4-acetic Acid Allyl Ester | 43.5 g | C(C=C)OC(CC=1C=2C=C(NC2C=CC1)C)=O | C14H15NO2
